US04156778
2-(3,4-diaminophenyl)-4(5)-methyl-2-imidazoline-hydrochloride (Formula IV)
51 g of 2-(4-amino-3-nitrophenyl)-4(5)-methyl-2-imidazoline-hydrochloride are hydrogenated in 1 l of methanol with Raney-nickel at room temperature. After termination of the hydrogen absorption, the catalyst is filtered off with suction and the filtrate is brought to dryness under reduced pressure. The remaining oil is recrystallized from isopropanol. Yield: 42.6 g (corresponding to 94% of theor. yield),

reactant | 2-(4-amino-3-nitrophenyl)-4(5)-methyl-2-imidazoline-hydrochloride | 51 g | Cl.NC1=C(C=C(C=C1)C=1NC[C@@H](N1)C)[N+](=O)[O-]
solvent | methanol | 1 l | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | 2-(3,4-diaminophenyl)-4(5)-methyl-2-imidazoline-hydrochloride | Cl.NC=1C=C(C=CC1N)C=1NC[C@@H](N1)C | InChI=1S/C10H14N4.ClH/c1-6-5-13-10(14-6)7-2-3-8(11)9(12)4-7;/h2-4,6H,5,11-12H2,1H3,(H,13,14);1H/t6-;/m0./s1
